US05420115
Preparation of 9-(2-Deoxy-3,5-di-O propionyl-2-fluoro-β-D-ribofuranosyl)guanine
To a solution of 9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)guanine (170 mg, 0.6 mmol), DMAP (4-dimethylaminopyridine) (8 mg) and triethylamine (0.41 ml, 5 eq.) in DMF (N,N-dimethylformamide) (4 ml) at room temperature was added propionic anhydride (0.16 ml, 2.1 eq) with stirring. After 20 hours, methanol (2 ml) was added. One hour later the mixture was evaporated in vacuo and the residue was chromatographed over SiO2 using the flash technique. Elution was with CHCl3 /MeOH (10:1), then (6:1), affording the title compound as a white solid.

reactant | 9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)guanine | 0.6 mmol, 170 mg | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=2N=C(NC(C2N=C1)=O)N | C10H12FN5O4
reactant | triethylamine | 0.41 ml, 5 eq. | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.16 ml, 2.1 eq | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | methanol | 2 ml | CO | CH4O
catalyst | DMAP | 8 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 4 ml | CN(C=O)C | C3H7NO
product | 9-(2-Deoxy-3,5-di-O propionyl-2-fluoro-β-D-ribofuranosyl)guanine | C(CC)(=O)O[C@H]1[C@H]([C@@H](O[C@@H]1COC(CC)=O)N1C=2N=C(NC(C2N=C1)=O)N)F | C16H20FN5O6
